US06291503B1
3-Amino-3-(3-methoxyphenyl)-propionic acid (8a):
Corresponding to Example 1a, 200 g of 3-methoxybenzaldehyde were reacted with ammonium acetate and malonic acid. A white solid was obtained (yield: 135.5 g).

reactant | 3-methoxybenzaldehyde | 200 g | COC=1C=C(C=O)C=CC1 | C8H8O2
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
reactant | malonic acid | C(CC(=O)O)(=O)O | C3H4O4
product | 3-Amino-3-(3-methoxyphenyl)-propionic acid | NC(CC(=O)O)C1=CC(=CC=C1)OC | C10H13NO3
